US05145868
d) (2RS,3SR)-2,3-Epoxy-3-(5-chlorothiophen-2-yl)-propanol
0.75 g of m-chloroperbenzoic acid is added to a stirred solution of 0.6 g of 3-(5-chlorothiophen-2-yl)-prop-2-enol according to c) in 50 ml of dichloromethane. The solution is stirred at room temperature for 5 hours, washed with 10% sodium carbonate solution, dried over sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with ether and the title compound is obtained in the form of a light-yellow oil.

reactant | m-chloroperbenzoic acid | 0.75 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(5-chlorothiophen-2-yl)-prop-2-enol | 0.6 g | ClC1=CC=C(S1)C=CCO | C7H7ClOS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2RS,3SR)-2,3-Epoxy-3-(5-chlorothiophen-2-yl)-propanol | O1C(CO)C1C=1SC(=CC1)Cl | C7H7ClO2S
